US04996210
5'-Methyl-4'-methylenespiro[1-azabicyclo[2.2.2]-octane-3,2'-thiolane] was prepared in much the same manner as in Example 5 by using 5'-methylspiro[1-azabicyclo[2.2.2]-octane-3,2'-thiolan]-4'-one. It was dissolved in ethanol, and then convereted to hydrochloride by addition of ethanolic hydrogen chloride.

reactant | 5'-methylspiro[1-azabicyclo[2.2.2]-octane-3,2'-thiolan]-4'-one | CC1C(CC2(S1)CN1CCC2CC1)=O | C11H17NOS
reactant | hydrochloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 5'-Methyl-4'-methylenespiro[1-azabicyclo[2.2.2]-octane-3,2'-thiolane] | CC1C(CC2(S1)CN1CCC2CC1)=C | C12H19NS
